US06437161B1
0.05 g of potassium hydride (1.23 mmol) was suspended in 20 ml of THF, and 0.3 g of 1-(8-quinolyl)indene (1.23 mmol) was slowly added. The resultant violet suspension was stirred at room temperature for three hours and then added dropwise to a mixture of 0.46 g of chromium(III) chloride 3THF (1.23 mmol) in 50 ml of THF and, when the addition was complete, the mixture was stirred for a further 16 hours. The solvent was removed under reduced pressure, and the resultant solid was extracted with hot toluene. After the solvent had been distilled off from the combined extracts, the product was obtained as a green powder, which was washed a number of times with hexane and dried under a high vacuum, giving 0.22 g of 1-(8-quinolyl)indenylchromium(III) dichloride (50%).

reactant | potassium hydride | 1.23 mmol, 0.05 g | [H-].[K+]
reactant | 1-(8-quinolyl)indene | 1.23 mmol, 0.3 g | N1=CC=CC2=CC=CC(=C12)C1C=CC2=CC=CC=C12 | C18H13N
reactant | chromium(III) chloride | 0.46 g | [Cl-].[Cr+3].[Cl-].[Cl-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(8-quinolyl)indenylchromium(III) dichloride | 0.22 g, 50% | [Cl-].[Cl-].N1=CC=CC2=CC=CC(=C12)C1C(=CC2=CC=CC=C12)[Cr+2] | InChI=1S/C18H12N.2ClH.Cr/c1-2-8-15-13(5-1)10-11-16(15)17-9-3-6-14-7-4-12-19-18(14)17;;;/h1-10,12,16H;2*1H;/q;;;+2/p-2
